US05869506
To a mixture of 5.0 g of 4-benzyloxy-2,6-dichlorophenol, 4.7 g of 1-bromo-3-(4-chlorophenoxy)propane and 30 ml of N,N-dimethylformamide was added 2.7 g of potassium carbonate with stirring at room temperature. After stirring at room temperature for 12 hours, the reaction solution was poured into iced water and extracted twice with 200 ml of diethyl ether. The ether layers were combined, washed with water, dried over anhydrous magnesium sulfate and then concentrated to obtain a crude product. This crude product was subjected to silica gel chromatography to give 6.5 g of 4-benzyloxy-1-(3-(4-chlorophenoxy)propyloxy)-2,6-dichlorobenzene(yield: 85 %).

reactant | 4-benzyloxy-2,6-dichlorophenol | 5.0 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)Cl)O)Cl | C13H10Cl2O2
reactant | 1-bromo-3-(4-chlorophenoxy)propane | 4.7 g | BrCCCOC1=CC=C(C=C1)Cl | C9H10BrClO
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 4-benzyloxy-1-(3-(4-chlorophenoxy)propyloxy)-2,6-dichlorobenzene | 6.5 g, yield: 85 % | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)Cl)OCCCOC1=CC=C(C=C1)Cl)Cl | C22H19Cl3O3
